US09315490B2
30b) (1-(5-(2,3-Difluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)-methanone
Potassium fluoride (0.048 g, 0.83 mmol), 2,3-difluoro phenyl boronic acid (0.10 g, 0.67 mmol), and bis(tri-tert-butylphosphine)palladium(0) (0.026 g, 0.05 mmol) were added at room temperature under an argon atmosphere to a solution of [1-(5-bromo-pyrimidin-2-yl)-3-methanesulfinyl-1H-indol-6-yl]-morpholin-4-yl-methanone (0.15 g, 0.33 mmol) in dry THF (12 mL). The reaction mixture was heated at 70° C. for 16 h, then filtered through a plug of celite and concentrated. The residue was purified by flash column chromatography [methanol/dichloromethane=1:40]. White solid. Yield: 100 mg (63% of theory).

reactant | Potassium fluoride | 0.83 mmol, 0.048 g | [F-].[K+]
reactant | 2,3-difluoro phenyl boronic acid | 0.67 mmol, 0.10 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | [1-(5-bromo-pyrimidin-2-yl)-3-methanesulfinyl-1H-indol-6-yl]-morpholin-4-yl-methanone | 0.33 mmol, 0.15 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.05 mmol, 0.026 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (1-(5-(2,3-Difluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)-methanone | FC1=C(C=CC=C1F)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C24H20F2N4O3S
